US05780470
1-Acetyl-4-(7-methoxy-tetralin-1-yl)piperazine
This compound was prepared from (7-methoxytetralin-1-yl)piperazine and acetyl chloride by the method described in Example 11 above (pale yellow oil, 58%). Calc'd for C17H24N2O2 : C, 69.93%; H, 8.43%; N, 9.60%. Found: C, 69.94%; H, 8.18%; N, 9.45%.

reactant | (7-methoxytetralin-1-yl)piperazine | COC1=CC=C2CCCC(C2=C1)N1CCNCC1 | C15H22N2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-Acetyl-4-(7-methoxy-tetralin-1-yl)piperazine | C(C)(=O)N1CCN(CC1)C1CCCC2=CC=C(C=C12)OC | C17H24N2O2
